US06008243
2,5-Dimethoxy-3-(4-propoylphenyl)-tetrahydrofuran
As described in Example 1(b) for the preparation of 2,5-dimethoxy-3-phenyltetrahydrofuran, 2,5-dihydro-2,5-dimethoxy-3-(4-propylphenyl)-furan (320 mg, 1.29 mmol) was hydrogenated to give 322 mg (100%) of a diastereomeric mixture of 2,5-dimethoxy-3-(4-propylphenyl)-tetrahydrofuran as a viscous colorless oil that was unstable and used immediately without further purification. 1H NMR (CDCl3): δ 7.24 (d, 2H, J=8.1 Hz), 7.12 (d, 2H, J=8.1 Hz), 5.24 (t, 1H, J=5.9 Hz), 3.60-3.30 (m, 6H), 2.59 (d, 1H, J=7.5 Hz), 2.52 (d, 1H, J=8.1 Hz), 2.32 (bs, 3H), 1.62 (q, 2H, J=7.5 Hz), 0.92 (t, 3H, J=7.5 Hz).

reactant | 2,5-dimethoxy-3-phenyltetrahydrofuran | COC1OC(CC1C1=CC=CC=C1)OC | C12H16O3
reactant | 2,5-dihydro-2,5-dimethoxy-3-(4-propylphenyl)-furan | 1.29 mmol, 320 mg | COC1OC(C=C1C1=CC=C(C=C1)CCC)OC | C15H20O3
reactant | 2,5-dimethoxy-3-(4-propylphenyl)-tetrahydrofuran | COC1OC(CC1C1=CC=C(C=C1)CCC)OC | C15H22O3
product | 2,5-Dimethoxy-3-(4-propoylphenyl)-tetrahydrofuran | 322 mg, 100% | COC1OC(CC1C1=CC=C(C=C1)C(CC)=O)OC | C15H20O4
